US08232283B2
In a 3 ml vial equipped with a small triangular magnetic stirring bar was placed 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin -7(8H)-one (348 μmol). Triethylamine (344 μmol) was added, followed by aliquots of DMF stock solutions of HATU (320 μmol) and 4-chloro-3-(trifluoromethyl)benzoic acid (129 μmol), and the mixture was stirred at room temperature over night. The solution was transferred to maximum recovery HPLC vials and purified by prep. HPLC-MS. The collected fractions were transferred to centrifuge vials and lyophilized, giving 4-chloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl) -3-(trifluoromethyl)benzamide as a solid (70%).

reactant | 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin -7(8H)-one | 348 μmol | NC=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)NCCN(C)C)N(C1=O)OC)Cl | C18H21ClN6O2
reactant | Triethylamine | 344 μmol | C(C)N(CC)CC | C6H15N
reactant | HATU | 320 μmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-chloro-3-(trifluoromethyl)benzoic acid | 129 μmol | ClC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4ClF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-chloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl) -3-(trifluoromethyl)benzamide | 70% | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=CC3=C(N=C(N=C3)NCCN(C)C)N(C2=O)OC)C=C1)C(F)(F)F | C26H23Cl2F3N6O3
